US04310677
15 parts of 50 percent strength by weight hydrogen peroxide solution are added slowly to a solution of 32.2 parts of 7-methylisatin and 12 parts of sodium methylate in 400 parts of methanol at 0° C. Thereafter, the mixture is stirred for 2 hours at room temperature and worked up as described in Example 1. 25.5 parts (78% of theory) of methyl 3-methylanthranilate, of melting point 27°-29° C., are obtained.

reactant | hydrogen peroxide | OO | H2O2
reactant | 7-methylisatin | CC=1C=CC=C2C(C(NC12)=O)=O | C9H7NO2
reactant | sodium methylate | C[O-].[Na+]
reactant | methanol | CO | CH4O
product | methyl 3-methylanthranilate | 78% | CC1=C(C(C(=O)OC)=CC=C1)N | C9H11NO2
